US05089633
Preparation of 7-(phenylcarbamoylamino)-4-chloro-3-(2-bromoethoxy)isocoumarin
7-(4-Fluorobenzyl)thiocarbamoylamino-4-chloro-3-(2-bromoethoxy)isocoumarin, and 7-(2,4-dimethylbenzyl)thiocarbamoylamino-4-chloro-3-(2-bromoethoxy)isocoumarin and 7-(4-fluorobenzyl)thiocarbamoylamino-4-chloro-3-(2-phenylethoxy)isocoumarin can be prepared by the same procedure.

reactant | 7-(4-Fluorobenzyl)thiocarbamoylamino-4-chloro-3-(2-bromoethoxy)isocoumarin | FC1=CC=C(CNC(=S)NC2=CC=C3C(=C(OC(=O)C3=C2)OCCBr)Cl)C=C1 | C19H15BrClFN2O3S
reactant | 7-(2,4-dimethylbenzyl)thiocarbamoylamino-4-chloro-3-(2-bromoethoxy)isocoumarin | CC1=C(CNC(=S)NC2=CC=C3C(=C(OC(=O)C3=C2)OCCBr)Cl)C=CC(=C1)C | C21H20BrClN2O3S
reactant | 7-(4-fluorobenzyl)thiocarbamoylamino-4-chloro-3-(2-phenylethoxy)isocoumarin | FC1=CC=C(CNC(=S)NC2=CC=C3C(=C(OC(=O)C3=C2)OCCC2=CC=CC=C2)Cl)C=C1 | C25H20ClFN2O3S
product | 7-(phenylcarbamoylamino)-4-chloro-3-(2-bromoethoxy)isocoumarin | C1(=CC=CC=C1)NC(=O)NC1=CC=C2C(=C(OC(=O)C2=C1)OCCBr)Cl | C18H14BrClN2O4
